### ISSUE TITLE
fix(Halt.Encoding): `encodePair` is not injective

### ISSUE THREAD

**Issue by akhilesh-balaji** [DiagonaLean/DiagonaLean#23]
Use the following:
```lean
/-- The pairing `encodePair` used to state the halting problem in `DiagonaLean.Halt` is
ambiguous on machine encodings containing the separator `[true, true]`: the paired string
does not determine the two components. -/
theorem encodePair_not_inj :
    ∃ a₁ b₁ a₂ b₂ : List Bool,
      encodePair a₁ b₁ = encodePair a₂ b₂ ∧ (a₁, b₁) ≠ (a₂, b₂) :=
  ⟨[], [true, true], [true, true], [], rfl, by decide⟩

/-- A self-delimiting pairing: every bit of the machine encoding is doubled, and the
marker `[false, true]` — the only pair of adjacent unequal bits in the doubled prefix —
separates it from the input. Unlike `encodePair`, this pairing is unambiguous for
arbitrary machine encodings; see `pairDelim_inj`. -/
def pairDelim (a b : List Bool) : List Bool :=
  (a.flatMap fun x => [x, x]) ++ [false, true] ++ b

/-- `pairDelim` is unambiguous: the machine encoding and the input can be read back off
the paired string. -/
theorem pairDelim_inj : ∀ {a₁ b₁ a₂ b₂ : List Bool},
    pairDelim a₁ b₁ = pairDelim a₂ b₂ → a₁ = a₂ ∧ b₁ = b₂ := by
  intro a₁
  induction a₁ with
  | nil =>
    intro b₁ a₂ b₂ h
    cases a₂ with
    | nil => simpa [pairDelim] using h
    | cons y t => cases y <;> simp [pairDelim] at h
  | cons x s ih =>
    intro b₁ a₂ b₂ h
    cases a₂ with
    | nil => cases x <;> simp [pairDelim] at h
    | cons y t =>
      simp only [pairDelim, List.flatMap_cons, List.cons_append, List.append_assoc,
        List.cons.injEq] at h
      obtain ⟨hxy, -, hrest⟩ := h
      obtain ⟨hst, hb⟩ := ih (by simpa [pairDelim] using hrest)
      exact ⟨by rw [hxy, hst], hb⟩

```
